US07655666B2
2-Amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester (300 mg, 0.87 mmol) and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)1H-pyrazole (181 mg, 1.0 equiv), K2CO3 (303 mg, 2.5 equiv.) and triphenylphosphine (45 mg. 0.2 equiv) were weighed in air and added in a flame-dried flask. Bis(dibenzylidenacetone)palladium (25 mg, 0.05 equiv) was added and the flask was closed by a septum. Dioxane (6 mL) was added and the mixture was stirred for 18 h (TLC control) at 90° C. The catalyst was filtered off and washed with EtOAc, the filtrate was evaporated to dryness. The crude product was purified by column chromatography (silica gel 60, EtOAc/hexanes 1/3 to 1/2) to give 2-amino-5-(1-methyl-1H-pyrazol-4-yl)-4-trifluoromethyl-benzoic acid methyl ester (0.57 mmol, 66%) as a white solid. ESI-MS: m/z 300 [M+H]+, rt: 4.97 min.

reactant | 2-Amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester | 0.87 mmol, 300 mg | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)N)=O | C9H7F3INO2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)1H-pyrazole | 181 mg, 1.0 equiv | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | K2CO3 | 303 mg, 2.5 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | triphenylphosphine | 45 mg, 0.2 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | Dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 2-amino-5-(1-methyl-1H-pyrazol-4-yl)-4-trifluoromethyl-benzoic acid methyl ester | 0.57 mmol, 66% | COC(C1=C(C=C(C(=C1)C=1C=NN(C1)C)C(F)(F)F)N)=O | C13H12F3N3O2
